US04166131
2-methyl-5-indanacetic acid
α-oxo-2-methyl-5-indanacetic acid methyl ester is reduced in a manner analogous to that described in Example 4. The cyclohexyl-ammonium salt of the title compound has a M.P. of 175°-178°.

reactant | α-oxo-2-methyl-5-indanacetic acid methyl ester | COC(C(C=1C=C2CC(CC2=CC1)C)=O)=O | C13H14O3
reactant | cyclohexyl-ammonium | C1(CCCCC1)[NH3+]
product | 2-methyl-5-indanacetic acid | CC1CC2=CC=C(C=C2C1)CC(=O)O | C12H14O2
